Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ s/p TACE
 
Major Surgical or Invasive Procedure:
TACE

 
History of Present Illness:
___ ___ speaking with hx of HBV and EtOH cirrhosis with ___ 
in ___, s/p  partial hepatectomy of left lobe and ?TACE ___, 
with residual tumor, admitted to medicine s/p TACE ___ via R 
femoral artery. Procedure was performed without complication. On 
arrival to the floor, history is obtained with assistance of his 
daughter at bedside. Pt reports mild, ___ abdominal discomfort, 
mild nausea, otherwise without complaints. Denies recent weight 
loss, night sweats. See results section for full TACE report.

ROS: All else negative
 
Past Medical History:
Per OMR, confirmed with pt's daughter:
HBV/EtOH induced cirrhosis c/b ___ s/p partial
hepatectomy (original tumor size 4 cm) on ___ in ___ s/p
TACE ___. No systemic chemo in the past. F/u MRI on ___
with 2.1 x 2.2 cm seg ___ lesion in additional to mild
intrahepatic bile duct prominence. 
 
Social History:
___
Family History:
No family history of liver disease
 
Physical Exam:
VS 98.0 PO 128 / 75 L Lying 61 16 98 RA 
General Appearance: NAD, resting comfortably in bed, nontoxic 
appearing
HEENT: MMM, oropharynx clear, sclera anicteric
Neck: supple, no cervical or supraclavicular lymphadenopathy
Chest: CTA Bilaterally, no wheezes or rales
Cardiovascular: reg rate, nl S1/S2, no m/r/g
Abdomen: soft, NT/ND, well-healed RUQ incision, +bowel sounds
GU: no foley
Extremities: WWP, no c/c/e, 2+ DPs bilaterally. Pressure 
dressing in place at R groin access site, no bruit appreciated.
Neuro: grossly intact

 
Pertinent Results:
___ 10:45AM   UREA N-26* CREAT-1.0 SODIUM-137 POTASSIUM-4.2
___ 10:45AM   estGFR-Using this
___ 10:45AM   ALT(SGPT)-28 AST(SGOT)-29 ALK PHOS-59 TOT 
BILI-0.5
___ 10:45AM   CALCIUM-9.0
___ 10:45AM   WBC-5.9 RBC-4.45* HGB-13.9 HCT-41.8 MCV-94 
MCH-31.2 MCHC-33.3 RDW-13.1 RDWSD-44.6
___ 10:45AM   PLT COUNT-187
___ 10:45AM   ___

Discharge Labs
___ 06:30AM BLOOD WBC-12.6*# RBC-4.47* Hgb-13.8 Hct-41.2 
MCV-92 MCH-30.9 MCHC-33.5 RDW-13.0 RDWSD-43.7 Plt ___
___ 06:30AM BLOOD Glucose-149* UreaN-25* Creat-1.1 Na-140 
K-3.9 Cl-105 HCO3-24 AnGap-15

FINDINGS: 
  
  
1. Celiac arteriogram demonstrates the left hepatic artery 
arising proximal to the origin of the gastroduodenal artery.  A 
right inferior phrenic artery is visualized, with a probable 
proximal origin from the celiac trunk. 
2. Left hepatic arteriogram demonstrating no tumoral supply. 
3. Right hepatic arteriogram demonstrates branches supplying the 
tumor with 
tumor blush. 
4. Oblique celiac arteriogram and celiac arteriogram with cone 
beam CT 
demonstrate the origin of the right inferior phrenic artery, 
which was unable to be accessed.  The right inferior phrenic 
artery did not clearly supply the tumor, but coursed in 
proximity to the tumor.  Multiple attempts at 
cannulating this vessel were unsuccessful despite extensive 
effort. 
5. Chemo embolization of a right hepatic artery branch supplying 
the tumor, with intentional reflux into other branches of the 
right hepatic artery. 
  
IMPRESSION:  
  
Successful right common femoral artery approach trans-arterial 
chemoembolization of a hepatic dome HCC. 
  
RECOMMENDATION(S):  Admit for overnight symptomatic control.  
Continue 
moxifloxacin treatment for an additional 17 days.

___ MRI ABDOMEN W/O & W/CON
1.  Segment ___ lesion meeting OPTN-5B criteria for HCC.  
It
is unclear if this represents recurrence of previously-treated
tumor or if this is a new lesion, as no prior comparisons are
available.  This lesion would be either OPTN-5B or OPTN-5T. 
Adjacent parenchymal changes and mild intrahepatic bile duct
prominence suggest prior treatment in this area.
2.  Nonocclusive thrombus along the superior aspect of the
superior mesenteric artery.  No secondary signs of bowel
ischemia.

 
Brief Hospital Course:
___ ___ speaking with hx of HBV and EtOH cirrhosis with HCC 
in ___, s/p  partial hepatectomy of left lobe and ?TACE ___, 
with residual tumor, admitted to medicine s/p TACE ___ via R 
femoral artery.

# HCC: S/p TACE as above, uncomplicated, he tolerated procedure 
well.  His WBC count went up after the procedure but this was 
felt to be a leukomoid reaction.  He was advised to use tramadol 
for pain after the procedure

# HBV: 
- Continue home entecavir 

# Transitional issue:
Chest CT ___:
IMPRESSION:  
1. Emphysema 
2. Lung nodules followup in 3 months is recommended 
3. Ectasia of the ascending aorta 
Per prior notes, "Told pt's daughter that f/u chest CT in three 
months was
recommended for lung nodules."  I have also sent the patient's 
PCP ___ letter to this effect.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Entecavir 0.5 mg PO DAILY 
2. Moxifloxacin 400 mg Other DAILY 

 
Discharge Medications:
1.  TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six hours as 
needed Disp #*15 Tablet Refills:*0 
2.  Entecavir 0.5 mg PO DAILY  
3.  Moxifloxacin 400 mg Other DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation after a procedure called TACE. 
 You may have some flu like symptoms, pain and low grade fevers 
for ___ days.  I am sending you home with a prescription for a 
medication called tramadol.  You may take this for pain.  Please 
do not take ibuprofen.  You may use Tylenol is small doses (500 
mg once or twice a day)
 
Followup Instructions:
___